US06784192B2
1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine
In ethanol (10 ml) was dissolved 465 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine. To the mixture was added 1.75 ml of a 4N-hydrogen chloride-ethyl acetate solution, followed by heating under reflux for 3 hours. The solvent was evaporated, an aqueous sodium bicarbonate was added to the residue, and the mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The resulting solid was recrystallized from ethyl acetate, to give 344 mg of the title compound as white needles.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine | 465 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC1=C(C=CC=C1)C | C21H28N2O
reactant | hydrogen chloride-ethyl acetate | C(C)(=O)OCC.Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine | 344 mg | O=C1NC=CC=C1CN1CCC(CC1)CCC1=C(C=CC=C1)C | C20H26N2O
